US04347372
Preparation of the compound 2,4-Dihydroxy-3,5-dibromo-benzaldoxime tris-(methylcarbamate)
6 g of 3,5-dibromo-2,4-dihydroxy-benzaldoxime were dissolved in 50 ml of dimethylsulfoxide and a little diazabicyclooctane was added. 4 ml of methyl isocyanate were now added with cooling (<20° C.) and stirring and the mixture was then stirred thoroughly at room temperature for 12 hours. The reaction mixture was poured into ice-water and salted out. The suspension was filtered with suction, the residue was washed with water and dissolved in a little dimethylformamide and active charcoal was added to the solution.

reactant | 3,5-dibromo-2,4-dihydroxy-benzaldoxime | 6 g | BrC=1C(=C(C=NO)C=C(C1O)Br)O | C7H5Br2NO3
reactant | diazabicyclooctane | N1(NCCCCCC1)C1CCCCCCC1 | C14H28N2
reactant | methyl isocyanate | 4 ml | CN=C=O | C2H3NO
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2,4-Dihydroxy-3,5-dibromo-benzaldoxime tris-(methylcarbamate) | CNC(O)=O.CNC(O)=O.CNC(O)=O.OC1=C(C=NO)C=C(C(=C1Br)O)Br | InChI=1S/C7H5Br2NO3.3C2H5NO2/c8-4-1-3(2-10-13)6(11)5(9)7(4)12;3*1-3-2(4)5/h1-2,11-13H;3*3H,1H3,(H,4,5)
